US06297239B1
Step F: Preparation of 2-(3-Chloro-phenoxy)-4-[(4-chloro-phenyl)-hydroxy-(3H-imidazol-4-yl)-methyl]-benzonitrile
2-(3-Chloro-phenoxy)-4-[(4-chloro-phenyl)-hydroxy-(1-trityl-1H-imidazol-4-yl)-methyl]-benzonitrile (0.269 g, 0.396 mmol), trifluoroacetic acid (5 mL), triethylsilane (0.050 mL, 3.17 mmol) was stirred in CH2Cl2 (5 mL) under Ar for 2 hr. The reaction mixture was concentrated in vacuo, diluted with EtOAc, washed with satd. NaHCO3 solution, water, brine, dried (MgSO4), concentrated and purified using SiO2 chromatography (1-1.5% MeOH/CH2Cl2 w NH4OH) to give the title compound. FAB MS (M+1)=436;

reactant | 2-(3-Chloro-phenoxy)-4-[(4-chloro-phenyl)-hydroxy-(1-trityl-1H-imidazol-4-yl)-methyl]-benzonitrile | 0.396 mmol, 0.269 g | ClC=1C=C(OC2=C(C#N)C=CC(=C2)C(C=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)(O)C2=CC=C(C=C2)Cl)C=CC1 | C42H29Cl2N3O2
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 3.17 mmol, 0.050 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-Chloro-phenoxy)-4-[(4-chloro-phenyl)-hydroxy-(3H-imidazol-4-yl)-methyl]-benzonitrile | ClC=1C=C(OC2=C(C#N)C=CC(=C2)C(C=2NC=NC2)(O)C2=CC=C(C=C2)Cl)C=CC1 | C23H15Cl2N3O2
